US09388173B2
Step 1: 1-(4-(6-bromo-1H-benzo[d]imidazol-1-yl)piperidin-1-yl)ethanone
To a solution of 6-bromo-1-(piperidin-4-yl)-1H-benzo[d]imidazole (50 mg, 0.178 mmol) in DCM (5 mL) in pyridine (5 mL) cooled by an ice-bath was added AcCl (14 mg, 0.178 mmol). The reaction mixture was stirred at room temperature for 3 h. The solvents were removed by concentration and the residue used for next step without further purification.

reactant | 6-bromo-1-(piperidin-4-yl)-1H-benzo[d]imidazole | 0.178 mmol, 50 mg | BrC=1C=CC2=C(N(C=N2)C2CCNCC2)C1 | C12H14BrN3
reactant | AcCl | 0.178 mmol, 14 mg | C(=O)(C)Cl | C2H3ClO
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-(6-bromo-1H-benzo[d]imidazol-1-yl)piperidin-1-yl)ethanone | BrC=1C=CC2=C(N(C=N2)C2CCN(CC2)C(C)=O)C1 | C14H16BrN3O
